US07550478B2
Step 9: N′-(3-chloro-6-fluoro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-(1,4-dioxan-2-ylmethyl)-N-methylsulfamide
To a stirred solution of 3-chloro-6-fluoro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl trifluoromethanesulfonate (200 mg, 0.49 mmol) in 1,4-dioxane (7 mL) were added N-(1,4-dioxan-2-ylmethyl)-N-methylsulfamide (200 mg, 0.98 mmol), Pd2(dba)3 (68 mg, 0.074 mmol), Xantphos (85 mg, 0.15 mmol), and K3PO4 (280 mg, 1.3 mmol). The reaction mixture was purged with N2 for 5 min, heated to 110° C. 8 h, cooled to room temperature, diluted with water, and extracted with CH2Cl2 (×3). The combined organics were dried (Na2SO4), concentrated, and purified by flash chromatography to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 8.78 (d, 1H); 8.24 (d, 1H); 7.99 (d, 1H); 7.93 (t, 1H); 7.36 (d, 1H); 7.21 (br s, 2H); 3.64-4.00 (series of m, 7H); 3.36 (dd, 1H); 3.08 (dd, 1H); 2.99 (s, 3H). LRMS (ESI) calc'd for (C20H19ClFN3O5S) [M+H]+, 468.1; found 468.0.

reactant | 3-chloro-6-fluoro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl trifluoromethanesulfonate | 0.49 mmol, 200 mg | FC(S(=O)(=O)OC=1C=CC2=C(C(C=3C(=NC=C(C3)Cl)C=C2)=O)C1F)(F)F | C15H6ClF4NO4S
reactant | N-(1,4-dioxan-2-ylmethyl)-N-methylsulfamide | 0.98 mmol, 200 mg | O1C(COCC1)CN(S(=O)(=O)N)C | C6H14N2O4S
reactant | Xantphos | 0.15 mmol, 85 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | K3PO4 | 1.3 mmol, 280 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.074 mmol, 68 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N′-(3-chloro-6-fluoro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-(1,4-dioxan-2-ylmethyl)-N-methylsulfamide | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C(=C(C=C1)NS(=O)(=O)N(C)CC1OCCOC1)F | C20H19ClFN3O5S
